US04833146
7-(2,3-Dihydroxypropyl)-3-methylxanthine
83 g (0.5 mol) of 3-methylxanthine are dissolved in 1250 ml of dimethylformamide, and 12 g (0.5 mol) of sodium hydride are added in portions at room temperature, while stirring. Stirring is continued for 30 minutes, after which 55.3 g (0.5 mol) of 1-chloro-2,3-propanediol in 100 ml of dimethylformamide are added dropwise and the mixture is heated for 18 hours at 110° C., while stirring. Working up is carried out as described in Example 55a).

reactant | 3-methylxanthine | 0.5 mol, 83 g | CN1C(NC(C=2NC=NC12)=O)=O | C6H6N4O2
reactant | sodium hydride | 0.5 mol, 12 g | [H-].[Na+]
reactant | 1-chloro-2,3-propanediol | 0.5 mol, 55.3 g | ClCC(CO)O | C3H7ClO2
solvent | dimethylformamide | 1250 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 7-(2,3-Dihydroxypropyl)-3-methylxanthine | OC(CN1C=NC=2N(C(NC(C12)=O)=O)C)CO | C9H12N4O4
